US09315521B2
To a mixture of crude 3-(bromomethyl)-2-(trifluoromethyl)pyridine (0.684 g, 2.84 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (0.242 g, 1.70 mmol) in anhydrous ethanol (100 mL) at 0° C. was added triethylamine (1.14 g, 1.57 mL, 11.36 mmol). The reaction mixture was allowed to stir at room temperature overnight. The solvent was evaporated, and ether was added to the precipitated triethylamine hydrobromide salt. The solid was filtered and washed with ether several times. The solvent was evaporated to provide a crude residue, which was purified by Combiflash using 0-10% MeOH:dichloromethane. 6-methyl-2-({[2-(trifluoromethyl)pyridin-3-yl]methyl}sulfanyl)pyrimidin-4-ol was obtained as a white solid (0.438 g, 51% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.14 (t, 3H), 2.21 (s, 3H), 2.61 (q, 2H), 4.35 (s, 2H), 6.00 (bs, 1H), 7.69 (s, 1H), 8.31 (s, 1H), 8.45 (s, 1H); M+301.5.

reactant | 3-(bromomethyl)-2-(trifluoromethyl)pyridine | 2.84 mmol, 0.684 g | BrCC=1C(=NC=CC1)C(F)(F)F | C7H5BrF3N
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 1.70 mmol, 0.242 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 11.36 mmol, 1.57 mL, 1.14 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 6-methyl-2-({[2-(trifluoromethyl)pyridin-3-yl]methyl}sulfanyl)pyrimidin-4-ol | CC1=CC(=NC(=N1)SCC=1C(=NC=CC1)C(F)(F)F)O | C12H10F3N3OS
